US04703054
A solution of 1-(2-bromoacetyl)-2,2-dimethyl-4-imidazolidinone (2 g) in 33% ammonia solution (80 ml) was stirred at room temperature overnight. After evaporation under reduced pressure, the residue was dissolved in dry ethanol and evaporated again to give 1-(2-aminoacetyl)-2,2-dimethyl-4-imidazolidinone hydrobromide as a white deliquescent powder (Rf 0.33, n-butanol/water/acetic acid 6:2:2, silica gel plates). The latter compound can also be prepared using the chloroacetyl derivative in a similar procedure.

reactant | 1-(2-bromoacetyl)-2,2-dimethyl-4-imidazolidinone | 2 g | BrCC(=O)N1C(NC(C1)=O)(C)C | C7H11BrN2O2
reactant | ammonia | 80 ml | N | H3N
product | 1-(2-aminoacetyl)-2,2-dimethyl-4-imidazolidinone hydrobromide | Br.NCC(=O)N1C(NC(C1)=O)(C)C | InChI=1S/C7H13N3O2.BrH/c1-7(2)9-5(11)4-10(7)6(12)3-8;/h3-4,8H2,1-2H3,(H,9,11);1H
